US04616014
A mixture of 4'-bromo-2-ethoxycarbonylaminopropiophenone (4.29 g), hydrazine hydrate (8 g) and n-butanol (50 ml) was refluxed under heating for 68 hours. The solution was evaporated to dryness, and the resultant residue was dissolved in a mixture of chloroform and methanol. The solution was washed with water and the washings were extracted with chloroform. The combined organic layer was dried over magnesium sulfate and evaporated to dryness. The resultant residue was washed with diisopropyl ether and recrystallized from ethanol to give colorless crystals of 6-(4-bromophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.68 g), m.p. 213.5°~215° C.

reactant | 4'-bromo-2-ethoxycarbonylaminopropiophenone | 4.29 g | BrC1=CC=C(C=C1)C(C(C)NC(=O)OCC)=O | C12H14BrNO3
reactant | hydrazine hydrate | 8 g | O.NN
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 6-(4-bromophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.68 g | BrC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H10BrN3O
